US07465730B2
To a solution of 3-fluoro-4-nitrophenol (1.57 g, 10.0 mmol) in 20 mL of dry DMF was added bromoethane (540 mg, 5.0 mmol) and K2CO3 powder (500 mg). The resulting reaction mixture was warmed to 50° C. and stirred for 1 h. It was quenched by addition of 20 mL of H2O, extracted with diethyl ether (100 mL×2). The combined organic extracts were washed with brine (50 mL), dried (MgSO4), filtered, and concentrated in vacuo to afford 4-ethoxy-2-fluoro-1-nitrobenzene as a pale yellow oil: MS (ESI) 186 (M+H)+.

reactant | 3-fluoro-4-nitrophenol | 10.0 mmol, 1.57 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | bromoethane | 5.0 mmol, 540 mg | BrCC | C2H5Br
reactant | K2CO3 | 500 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-ethoxy-2-fluoro-1-nitrobenzene | C(C)OC1=CC(=C(C=C1)[N+](=O)[O-])F | C8H8FNO3
